US03946000
Alternative Procedure for the Preparation of α-(2-aminomethyl-1,4-cyclohexadienyl)-acetic acid ##SPC12##
The procedure used by Welch, Dolfini and Giarrusso in U.S. Pat. 3,720,665 (Example 1) to make D-2-amino-2-(1,4-cyclohexadienyl)acetic acid was adapted. A solution of 830 ml. of distilled liquid ammonia was dried with 40 mg. of lithium under an argon atmosphere. To this stirred solution was added 11.0 g. (0.07 mole) of 2 -aminomethylphenylacetic acid and 340 ml. of tert. butyl alcohol. A total of 1.6 g. (0.225 mole) of lithium was added to the vigorously stirred solution over a period of 2 hours. The grey mixture was then treated with 35 g. (0.215 mole) of triethylamine (TEA) hydrochloride and stirred overnight at room temperature for 18 hours. The tert. butyl alcohol was removed at 40° (15 mm.) to yield a white residue which was dried in vacuo over P2O5 overnight. The solid was dissolved in 30 ml. of 1:1 methanol-water and added with stirring to 3.5 l. of 1:1 chloroform-acetone at 5°. the mixture was stirred for 20 min. and the amino acid α-(2-aminomethyl-1,4-cyclohexadienyl)acetic acid, was collected and dried for 16 hours in vacuo over P2O5 to yield 6.3 g. (58%) of white crystals, m.p. 190° decomp. The IR and NMR spectra were consistent for the structure.

reactant | 2 -aminomethylphenylacetic acid | 0.07 mole | NCC1=C(C=CC=C1)CC(=O)O | C9H11NO2
reactant | lithium | 0.225 mole | [Li] | Li
reactant | triethylamine | 0.215 mole | C(C)N(CC)CC | C6H15N
solvent | tert. butyl alcohol | C(C)(C)(C)O | C4H10O
product | α-(2-aminomethyl-1,4-cyclohexadienyl)-acetic acid | NCC1=C(CC=CC1)CC(=O)O | C9H13NO2
